US07223745B2
8-(Ethylsulfonylamino)octanoic acid
A solution of ethanesulfonyl chloride (1.5 ml, 15.7 mmol) in dioxane (5 ml) was added to a solution of 8-aminooctanoic acid (1 g, 6.28 mmol) in 1N NaOH (22 ml) and dioxane (5 ml), while stirring at 0–5° C. The mixture was allowed to warm to room temperature and stirred for 3.5 minutes. During this period, at 1 hour intervals, the pH was adjusted to 7–8 by addition of 25% NaOH solution. The reaction mixture was washed with diethyl ether (30 ml). The pH was adjusted to 1–2 by addition of 1N HCl and the mixture was extracted with ethyl acetate (70 ml). The organic layer was dried over sodium sulfate and concentrated. The residue was triturated with a mixture of diethyl ether. The solid was collected by filtration and dried under vacuum affording 600 mg of the title compound (38% yield). 1H NMR (DMSO-d6): 11.9 (1H, s); 6.96 (1H, t, J=6 Hz); 2.96 (2H, q, J=7.1); 2.88 (2H, q, J=6.6); 2.2 (2H, t, J=7.3); 1.45 (4H, m); 1.26 (6H, m); 1.18 (3H, t, J=7.3).

reactant | ethanesulfonyl chloride | 15.7 mmol, 1.5 ml | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 8-aminooctanoic acid | 6.28 mmol, 1 g | NCCCCCCCC(=O)O | C8H17NO2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 22 ml | [OH-].[Na+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 8-(Ethylsulfonylamino)octanoic acid | 600 mg, 38% yield | C(C)S(=O)(=O)NCCCCCCCC(=O)O | C10H21NO4S
